US06826033B2
To a solution of ethyl 3-[[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]-amino]carbonyl]amino]benzoate (148 mg) in ethanol (2.0 ml) was added 1N sodium hydroxide solution (292 μl) and the solution was refluxed for 4 hours. An additional portion of 1N sodium hydroxide solution (58.3 μl) was added and the whole was refluxed for 3 hours. After cooling to room temperature, the solvent was removed by evaporation to give sodium 3-[[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]amino]carbonyl]amino)-benzoate (158 mg) as a white solid.

reactant | ethyl 3-[[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]-amino]carbonyl]amino]benzoate | 148 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)NC=1C=C(C(=O)OCC)C=CC1)NC[C@@H](COC1=CC=CC=C1)O | C28H33N3O6
reactant | sodium hydroxide | 1N, 292 μl | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 58.3 μl | [OH-].[Na+]
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | sodium 3-[[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]amino]carbonyl]amino)-benzoate | 158 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)NC=1C=C(C(=O)[O-])C=CC1)NC[C@@H](COC1=CC=CC=C1)O.[Na+] | InChI=1S/C26H29N3O6.Na/c30-16-22(27-15-23(31)17-35-24-7-2-1-3-8-24)13-18-9-11-20(12-10-18)28-26(34)29-21-6-4-5-19(14-21)25(32)33;/h1-12,14,22-23,27,30-31H,13,15-17H2,(H,32,33)(H2,28,29,34);/q;+1/p-1/t22-,23-;/m0./s1
